US05972966
Step D: Preparation of 1-(2,2-Diphenylethyl)-piperidine-2(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide
Piperidine-2(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide dihydrochloride (0.503 mmol) was dissolved in MeOH (3 mL) and the pH of the solution adjusted to 5 with Et3N. 2,2-Diphenylacetaldehyde (0.267 mL, 1.508 mmol) and NaCNBH3 (0.095 g, 1.508 mmol) were added, and the reaction mixture stirred for 18 hr at ambient temperature. The mixture was concentrated to remove the MeOH, then partitioned between CH2Cl2 and aq satd NaHCO3 solution. The organic phase was washed with brine, dried (Na2SO4), filtered and concentrated to give the title compound after SiO2 chromatography eluting with CH2Cl2 : MeOH, NH4OH, 98:1.8:0., and conversion to the hydrochloride salt.

reactant | Piperidine-2(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide dihydrochloride | 0.503 mmol | Cl.Cl.C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)[C@H]2NCCCC2)C=C1
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | 2,2-Diphenylacetaldehyde | 1.508 mmol, 0.267 mL | C1(=CC=CC=C1)C(C=O)C1=CC=CC=C1 | C14H12O
reactant | NaCNBH3 | 1.508 mmol, 0.095 g | [BH3-]C#N.[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 1-(2,2-Diphenylethyl)-piperidine-2(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide | C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)[C@H]2N(CCCC2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C33H35N5O
